US07230011B2
5-(t-Butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol
To a solution of 3-(1-methyl-pyridin-4-yl)-5-hydroxy-1H-indole (8.0 g, 34.7 mmol) and 1-methyl-2-pyrrolidinone (10 mL) in dichloromethane (90 mL) stirring at 0° C., was added tert-butyldimethylsilyl chloride in small portions (5.50 g, 36.5 mmol), followed by imidazole also in small portions (2.48 g, 36.5 mmol). The reaction mixture was stirred for 1 hour at 0° C., then overnight at room temperature. The mixture was concentrated in vacuo to a solid residue, which was directly purified on silica gel. Elution with a 9:1 mixture of dichloromethane and methanol provided 7.60 g (63%) of the title compound as a white solid: mp=191-195° C.; 1H NMR (400 MHz, dmso-d6): 10.46 (s, 1H), 7.02 (d, 1H, J=8.4 Hz), 6.87 (d, 1H, J=2.4 Hz), 6.74 (d, 1H, J=2.4 Hz), 6.45 (dd, 1H, J=8.6, 2.6 Hz), 2.69 (br d, 2H, J=11.2 Hz), 2.46 (tt, 1H, J=11.8, 3.6 Hz), 2.04 (s, 3H), 1.92-1.80 (m, 2H), 1.75-1.67 (m, 2H), 1.50 (qd, 2H, J=12.4, 3.6 Hz), 0.81 (s, 9H), 0.00 (s, 6H); MS (APCI): m/e 345 0.2 (M+1).

reactant | 3-(1-methyl-pyridin-4-yl)-5-hydroxy-1H-indole | 34.7 mmol, 8.0 g | CN1CC=C(C=C1)C1=CNC2=CC=C(C=C12)O | C14H14N2O
reactant | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 5-(t-Butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol | 7.60 g, 63% | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H32N2OSi
